* source STAB_TST_10
Q_Q5         N183595 N186699 N186468 QBC817-25 
R_R12         N182999 N183005  1K TC=0,0 
X_P1         N183705 N183201 N187381 POT PARAMS: SET=0.4 VALUE=1K
R_R2         N182795 VCC  510 TC=0,0 
R_RC2         N183015 OUT  0.47 TC=0,0 
Q_Q2         N183273 N182723 N183595 QBC817-25 
Q_Q1         N183273 N183273 N183545 QBC807-25 
V_VCC         VCC 0 6.66
R_RLOAD         OUT 0  510 TC=0,0 
R_R6         OUT N182999  3.3K TC=0,0 
I_I1         OUT 0 DC 0Adc  
R_R10         N183545 VCC  220 TC=0,0 
Q_Q3         N183091 N183201 N183595 QBC817-25 
Q_QESR2         VCC N189238 N183015 QMJD31C 
Q_Q4         N183091 N183273 N183551 QBC807-25 
R_R11         N183551 VCC  220 TC=0,0 
R_R9         N183705 N183251  100 TC=0,0 
R_R30         N182723 0  51K TC=0,0 
R_R29         N182795 N182723  100K TC=0,0 
D_D1         0 N182795 BZX84-C2V7 
R_R31         N186468 0  100 TC=0,0 
D_D2         N186699 0 Dbreak 
R_R32         VCC N186699  510 TC=0,0 
R_R33         N183005 N187381  220 TC=0,0 
R_R34         N183251 0  1K TC=0,0 
Q_Q6         N183091 N183015 OUT QBC846B 
R_RC3         N183015 OUT  0.47 TC=0,0 
R_RC4         N183015 OUT  0.47 TC=0,0 
Q_QESR3         VCC N183091 N189238 QMJD31C 
